US08541457B2
Synthesis of 2-(3,5-Difluorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 3,5-difluorobenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 48% yield; m.p. 84-86° C.; 1H NMR (CDCl3, 300 MHz) δ 7.44-7.24 (m, 7H), 7.01 (tt, J=2.2, 8.4 Hz, 1H), 6.05 (s, 1H), 4.58 (d, J=5.6 Hz, 2H), 2.41 (s, 3H); MS (ES+) m/z 388.1 (M+1).

reactant | 3,5-difluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=C(C1)F | C7H3ClF2O
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(3,5-Difluorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 48% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC(=CC(=C1)F)F)=O)C | C19H15F2N3O2S
